US07071201B2
Example 85-2: Synthesis of cis-1-(1-acetyl-3-ethoxycarbonylpiperidin-4-yl)indoline
Indoline (12.5 g), ethyl 1-acetyl-4-oxo-3-piperidinecarboxylate (22.3 g) and triacetoxylated sodium borohydride (48.7 g) were treated as in Example 1 to give the title compound (7.12 g) as a pale yellow powder (yield: 22%).

reactant | Indoline | 12.5 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | ethyl 1-acetyl-4-oxo-3-piperidinecarboxylate | 22.3 g | C(C)(=O)N1CC(C(CC1)=O)C(=O)OCC | C10H15NO4
product | cis-1-(1-acetyl-3-ethoxycarbonylpiperidin-4-yl)indoline | 7.12 g, yield: 22% | C(C)(=O)N1C[C@H]([C@H](CC1)N1CCC2=CC=CC=C12)C(=O)OCC | C18H24N2O3
